US03998810
A mixture of 6.4 g. N-(2-aminoethyl)-diphenylamine and 4.7 g. 1,2-epoxy-3-phenoxy-propane was heated for 10 minutes at 160°C. The reaction product was triturated with ether and then recrystallized from isopropanol. 4.7 g. (43% of theory) of colorless crystals of 1-(2-diphenylaminoethylamino)-2-hydroxy-3-phenoxy-propane were obtained; m.p. 95° - 96°C.

reactant | N-(2-aminoethyl)-diphenylamine | NCCN(C1=CC=CC=C1)C1=CC=CC=C1 | C14H16N2
reactant | 1,2-epoxy-3-phenoxy-propane | O1CC1COC1=CC=CC=C1 | C9H10O2
product | 1-(2-diphenylaminoethylamino)-2-hydroxy-3-phenoxy-propane | C1(=CC=CC=C1)N(CCNCC(COC1=CC=CC=C1)O)C1=CC=CC=C1 | C23H26N2O2
